US03931235
3-(2,4-Dichlorobenzylsulfinyl)-4-hydroxy-6-methyl-2-pyrone
3-(2,4-Dichlorobenzylthio)-4 -hydroxy-6-methyl-2-pyrone (13.0 g., 0.041 mole) and 40% peroxyacetic acid (7.8 g., 0.041 mole) were dissolved in glacial acetic acid (200 ml.). The solution was allowed to stand at room temperature for two weeks, then was diluted with water and extracted with methylene chloride. The extract was dried (MgSO4) and evaporated to dryness, leaving 12.6 g. (93 percent) of an off-white solid. Recrystallization from benzene gave the pure product as white needles, m.p. 144°-146°C.

reactant | 3-(2,4-Dichlorobenzylthio)-4 -hydroxy-6-methyl-2-pyrone | 0.041 mole, 13.0 g | ClC1=C(CSC=2C(OC(=CC2O)C)=O)C=CC(=C1)Cl | C13H10Cl2O3S
reactant | peroxyacetic acid | 0.041 mole, 7.8 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(2,4-Dichlorobenzylsulfinyl)-4-hydroxy-6-methyl-2-pyrone | ClC1=C(CS(=O)C=2C(OC(=CC2O)C)=O)C=CC(=C1)Cl | C13H10Cl2O4S
